US08242125B2
107-A. Tert-butyl 4-(1-(3-(hydroxymethyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate
To a solution of tert-butyl 4-(1-(3-((tert-butyldimethylsilyloxy)methyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate (0.252 g, 0.361 mmol) in 6 mL of THF and 14 mL of water, 26 mL of acetic acid is added. The mixture is heated to 32° C. for 5 h at which point the reaction is diluted with EtOAc, washed with water/pyridine, saturated sodium bicarbonate, brine and dried over sodium sulfate, concentrated to give the title compound. MS (ESI) m/z 584.2 (M+1).

reactant | tert-butyl 4-(1-(3-((tert-butyldimethylsilyloxy)methyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate | 0.361 mmol, 0.252 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(CC2)C(=O)OC(C)(C)C | C35H42F3N5O5Si
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 14 mL | O | H2O
solvent | acetic acid | 26 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Tert-butyl 4-(1-(3-(hydroxymethyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate | OCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(CC2)C(=O)OC(C)(C)C | C29H28F3N5O5
